### PR TITLE
Direct sum and gradedRing

### PR DESCRIPTION
**Pull request by thomas-lamiaux**
The goal of this PR has changed during the work. This is the updated message
### Overview
The goal of this PR is to add a general notion graded ring.
This for two definitions of the direct sum that shown equivalent.

### HIT Direct Sum
- [x] Add a pseudo normal form for the HIT direct sum if indexed by N
- [x] Add a proof that base is `base k a = base l b => a = 0_k & b = 0_l` for a decidable index
- [x] Add a universal property

### Almost null sequences Direct Sum
- [x] Add another definition of the direct sum using almost null sequences
- [x] Prove the equivalence between the two definition of the direct sum if the index is N

### Graded Ring
- [x] Add a general notion of graded ring using the HIT direct sum
- [x] Add some instances of gradedRing :
- - [x] Trivial Graded  Ring
- - [x]  Polynomial
- - [x] Cohomology Ring
- [x] Replace the following constructions using the new graded ring construction
- - [x] Polynomials
- - [x] Cohomology Ring
- [x] Add the almost null sequences as an instance of the graded Ring when the index is a N monoid.
- [x] Add Instances using this new definition :
- - [x] Polynomials
- - [x] Cohomology Ring

### CODE REVIEW

**Comment by thomas-lamiaux** [comment]
**I have proved that if can compute a normal form then the function is injective and so you have the equivalence !** 
This a huge progress because the data structure are mess here and this proof gives which data structures to use and how to use them.

I still have to add the some lemma on depVec and compute the normal form but now this should work. 
By the way, The PR is currently a big mess. 
This due to the complexity of all the data structures that makes really hard to prove things without trying a bunch of things and looking at the entire technical details.
Hence there is a lot of traces of past attempts and several naming convention coexisting due to past attempts.
This will be clean once the proof completed.

File: Cubical/Algebra/AbGroup/Instances/DirectSum.agda [hunk 1]
```diff
@@ -1,25 +0,0 @@
...
-module Cubical.Algebra.AbGroup.Instances.DirectSum where
-
-open import Cubical.Foundations.Prelude
-
-open import Cubical.Algebra.AbGroup
-
-open import Cubical.Algebra.DirectSum.Base
-open import Cubical.Algebra.DirectSum.Properties
-
-open import Cubical.Algebra.Polynomials.Multivariate.Base
```
Comment (felixwellen) [inline Cubical/Algebra/AbGroup/Instances/DirectSum.agda:11]: Unused import

**Comment by felixwellen** [comment]
Do you have a reason to do all of that in one PR? 
Something else: Why did you put some part of the direct sums in Algebra/DirectSum...? Wouldn't it be better to have everything in one place (e.g. in a folder in AbGroup)?

File: Cubical/Data/FinData/DepFinVec.agda [hunk 2]
```diff
@@ -0,0 +1,24 @@
...
+
+open import Cubical.Data.FinData.Base
+open import Cubical.Data.FinData.Properties
+
+private
+  variable
+    ℓ ℓ' : Level
+
+{-
+  WARNING : Is someone use dependant vector in a general case.
```
Comment (felixwellen) [inline Cubical/Data/FinData/DepFinVec.agda:16]: "using dependent vectors"?

Comment (felixwellen) [reply Cubical/Data/FinData/DepFinVec.agda:16]: I don't understand this comment.

**Comment by thomas-lamiaux** [comment]
@felixwellen the PR may seem big but there is not that much :
- Add the direct sum using Almost Null Sequence for AbGroups (because it was never added)
- Prove the equivalence with the HIT one, added in a previous pull request
- Use it to transport the CommRingStructure on HIT to the almost null sequences one

The place in the library is indeed probably not the best one. 
Same for the name, coproduct maybe better.

File: Cubical/Algebra/DirectSum/DirectSumHIT/PseudoNormalForm.agda [hunk 3]
```diff
@@ -0,0 +1,167 @@
...
+  _pt+DV_ {suc n} (a □ dva) (b □ dvb) = Gstr n ._+_ a b □ (dva pt+DV dvb)
+
+  sumHIT+ : {n : ℕ} → (dva dvb : depVec G n) → sumHIT (dva pt+DV dvb) ≡ sumHIT dva +⊕HIT sumHIT dvb
+  sumHIT+ {0} ⋆ ⋆ = sym (+⊕HIT-IdR _)
+  sumHIT+ {suc n} (a □ dva) (b □ dvb) = cong₂ _+⊕HIT_ (sym (base-add _ _ _)) (sumHIT+ dva dvb)
+                                        ∙ comm-4 (⊕HIT-AbGr ℕ G Gstr) _ _ _ _
+
+
+-----------------------------------------------------------------------------
+-- Case Traduction
```
Comment (felixwellen) [inline Cubical/Algebra/DirectSum/DirectSumHIT/PseudoNormalForm.agda:109]: I don't know the word 'Traduction' - what do you mean?

File: Cubical/Algebra/DirectSum/Equiv-DSHIT-DSFun.agda [hunk 4]
```diff
@@ -0,0 +1,462 @@
...
+  subst+ {k} x y {l} p = J (λ n p → subst G p ((Gstr k)._+_ x y) ≡ (Gstr n)._+_ (subst G p x) (subst G p y))
+                         (transportRefl _ ∙ cong₂ ((Gstr k)._+_) (sym (transportRefl _)) (sym (transportRefl _)))
+                         p
+
+  substG : (g : (n : ℕ) → G n) → {k n : ℕ} → (p : k ≡ n) → subst G p (g k) ≡ g n
+  substG g {k} {n} p = J (λ n p → subst G p (g k) ≡ g n) (transportRefl _) p
+
+
+-----------------------------------------------------------------------------
+-- Direct Sens
```
Comment (felixwellen) [inline Cubical/Algebra/DirectSum/Equiv-DSHIT-DSFun.agda:139]: Typo

**Comment by felixwellen** [comment]
> @felixwellen the PR may seem big but there is not that much :
> 
>     * Add the direct sum using Almost Null Sequence for AbGroups (because it was never added)
> 
>     * Prove the equivalence with the HIT one, added in a previous pull request
> 
>     * Use it to transport the CommRingStructure on HIT to the almost null sequences one
> 
> 
> The place in the library is indeed probably not the best one. Same for the name, coproduct maybe better.

I have no opinion on "Coproduct" vs "DirectSum" - I'm ok with both.
I'm confused about the purpose of the PR now - the title says 'cohomology ring', but that doesn't appear in your bullet-list. I still think it is too much to do in one PR - a commonly used rule of thumb is, that a PR should be about one thing. 
I don't say you should split up the work you have already done - but maybe you can wrap up a part of what you planned and start a new PR for (each part of) the rest?

**Comment by thomas-lamiaux** [comment]
This were it pop up. "Use it to transport the CommRingStructure on HIT to the almost null sequences one"
I tried to be clear in the overview but I am not really good a the that. I'll try again.

In other words, Anders attempted to define the cohomology using almost null sequences for the definition of the direct sum.
However, he never managed to prove associativity. 
The goal of the pull request is to define the Cohomology Ring using almost null sequence so "fix" Anders previous PR.
To do that we proof the equivalence of the underlying direct sum, so H*, 1, +, prod then transport something like isComRing from the HIT defintion (that we now how to prove) to the almost null sequences. 

The pull request got big because I didn't thought that proving the equivalence was going to be that hard.
If you prefer I can close the PR now by removing the [cohomology part ](https://github.com/agda/cubical/pull/798/files#diff-906825439db03d28d51a7770de8030623115d0be3ae4247ee6857004dd1a16ac). 
But I don't know if there is a point to that as this file is the main reason for the PR and should be thelast file, the others files are basically lemma.
I think I have less than a few hundreds line to add to this file to complete the pull request.

**Comment by felixwellen** [comment]
Ok - thanks for explaining!
And sure, if it is work to split it up now, don't do that, just finish it.

File: Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda [hunk 5]
```diff
@@ -58,7 +58,7 @@ module _ (Idx : Type ℓ) (P : Idx → Type ℓ') (AGP : (r : Idx) → AbGroupSt
                      → PathP (λ i → Q (base-add r a b i)) ((base* r a) add* (base* r b)) (base* r (AbGroupStr._+_ (AGP r) a b)))
     where
 
-    f : (x : ⊕ Idx P AGP) → Q x
```
Comment (felixwellen) [inline Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda:61]: 'f' is the only thing defined in this module - don't you want to make the module anonymous and use its name instead of 'f'?

File: Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda [hunk 6]
```diff
@@ -83,21 +83,21 @@ module _ (Idx : Type ℓ) (P : Idx → Type ℓ') (AGP : (r : Idx) → AbGroupSt
     (base-add*     : (r : Idx) → (a b : P r) → (base* r a) add* (base* r b) ≡ base* r (AbGroupStr._+_ (AGP r) a b))
     where
 
-    f : ⊕ Idx P AGP → B
```
Comment (felixwellen) [inline Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda:86]: Same here?

File: Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda [hunk 7]
```diff
@@ -83,21 +83,21 @@ module _ (Idx : Type ℓ) (P : Idx → Type ℓ') (AGP : (r : Idx) → AbGroupSt
...
+    (Q            : (x : ⊕HIT Idx P AGP) → Type ℓ'')
+    (ispd         : (x : ⊕HIT Idx P AGP) → isProp (Q x))
     -- elements
     (neutral*     : Q neutral)
     (base*        : (r : Idx) → (a : P r) → Q (base r a))
-    (_add*_       : {x y : ⊕ Idx P AGP} → Q x → Q y → Q (x add y))
+    (_add*_       : {x y : ⊕HIT Idx P AGP} → Q x → Q y → Q (x add y))
     where
 
-    f : (x : ⊕ Idx P AGP) → Q x
```
Comment (felixwellen) [inline Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda:100]: ... and here

File: Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda [hunk 8]
```diff
@@ -115,5 +115,5 @@ module _ (Idx : Type ℓ) (P : Idx → Type ℓ') (AGP : (r : Idx) → AbGroupSt
     (_add*_   : B → B → B)
     where
 
-    f : ⊕ Idx P AGP → B
```
Comment (felixwellen) [inline Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda:118]: ... and here

File: Cubical/Algebra/DirectSum/DirectSumHIT/Properties.agda [hunk 9]
```diff
@@ -1,20 +1,20 @@
...
 open import Cubical.Algebra.Group
 open import Cubical.Algebra.AbGroup
 
-open import Cubical.Algebra.DirectSum.Base
+open import Cubical.Algebra.DirectSum.DirectSumHIT.Base
 
 private variable
   ℓ ℓ' : Level
 
 module _ (Idx : Type ℓ) (P : Idx → Type ℓ') (AGP : (r : Idx) → AbGroupStr (P r)) where
```
Comment (felixwellen) [inline Cubical/Algebra/DirectSum/DirectSumHIT/Properties.agda:14]: I think it is better to package the groups up, i.e. use something of type ```Idx -> AbGroup```. You can use the notation defined in 
```
Cubical.Foundations.Structures
```
to easily access the underlying type of an AbGroup with ```\< A \>```

**Comment by thomas-lamiaux** [comment]
The PR is going to be finished without the final point ie transporting the equivalent ring.
Indeed to do that we would need #817  to fix the induced structure and to add one for ring.

On the organization, especially on the direct sum, I am waiting for a decision on #813 to decide what to do.
This should be done in a specific PR reorganizing algebra.

Hence, I am going to clean and ask for review for this one.

File: Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda (hunk 5 above)
Comment (thomas-lamiaux) [reply Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda:61]: will be fixed by a specific PR #822

File: Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda (hunk 7 above)
Comment (thomas-lamiaux) [reply Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda:100]: same

File: Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda (hunk 6 above)
Comment (thomas-lamiaux) [reply Cubical/Algebra/DirectSum/DirectSumHIT/Base.agda:86]: same

**Comment by thomas-lamiaux** [comment]
Oh actually I forgot unicity but it should be easy

**Comment by thomas-lamiaux** [comment]
@mortberg It does give a nice packaging of the Cohomology Ring !
https://github.com/agda/cubical/pull/798/files#diff-819201561a50e87b58749a2f8e41f0787d09bd9285abace27e4a54bd0506e273R39

**Comment by mortberg** [comment]
> @mortberg It does give a nice packaging of the Cohomology Ring ! https://github.com/agda/cubical/pull/798/files#diff-819201561a50e87b58749a2f8e41f0787d09bd9285abace27e4a54bd0506e273R39

Excellent! Looking forward to investigating if this packaging leads to some simplifications to the characterizations of concrete cohomology rings

**Comment by thomas-lamiaux** [comment]
@mortberg The polynomials should be finally replaced with the new definition.
It was a bit long because I wrote one or two bad files not using the instances so I had rewrite those too.

The question now is what to do with the Multivariate.Base (def) and Multivariate.Properties  (ring properties) because the two are now contained in the CommRing Instances and "automatically proved". 
So there is now longer the need for them and yet, there should be a base with a pointer or something to the Instances, otherwise people are just not going to find it

**Comment by thomas-lamiaux** [comment]
@mortberg I have finish defying the GradedRing using the Fun definition.
I still have to add a few instances to be complete but now that the hard work is done, it should sum up to calling make functions.
So this should be finally done very soon. I was not expecting this to be an entire months of work !

File: Cubical/Algebra/GradedRing/DirectSumFun.agda [hunk 10]
```diff
@@ -0,0 +1,421 @@
...
+
+-----------------------------------------------------------------------------
+-- Def, notation, lemma
+
+module _
+
+  -- monoid
+  (_+n_ : ℕ → ℕ → ℕ)
+  (isM : IsMonoid 0 _+n_)
+  (_+≡_ : (n m : ℕ) →  n +n m ≡ n +ℕ m) -- needed for the behaviour under -ℕ
```
Comment (mortberg) [inline Cubical/Algebra/GradedRing/DirectSumFun.agda:59]: This implies same fiber

File: Cubical/Algebra/GradedRing/DirectSumFun.agda [hunk 11]
```diff
@@ -0,0 +1,421 @@
...
+  (sameFiber : {i n : ℕ} → (i ≤ n) → i +n (n -n i) ≡ n)
```
Comment (mortberg) [inline Cubical/Algebra/GradedRing/DirectSumFun.agda:60]: replace -n by -N

File: Cubical/Algebra/Ring/Properties.agda [hunk 12]
```diff
@@ -242,6 +242,10 @@ module RingEquivs where
   fst (invEquivRing e) = invEquiv (fst e)
   snd (invEquivRing e) = isRingHomInv e
 
+  idEquivRing : (A : Ring ℓ) → RingEquiv A A
```
Comment (mortberg) [inline Cubical/Algebra/Ring/Properties.agda:245]: idRingEquiv

File: Cubical/Algebra/Ring/Properties.agda [hunk 13]
```diff
@@ -242,6 +242,10 @@ module RingEquivs where
   fst (invEquivRing e) = invEquiv (fst e)
```
Comment (mortberg) [inline Cubical/Algebra/Ring/Properties.agda:242]: invRingEquiv

File: Cubical/Data/Vec/DepVec.agda [hunk 14]
```diff
@@ -0,0 +1,81 @@
...
+             → decode v v' (encode v v' p) ≡ p
+      retr v v' p = J (λ v' p → decode v v' (encode v v' p) ≡ p)
+                    (cong (decode v v) (encodeRefl v) ∙ decodeRefl v) p
+
+
+-- module _ (G : (n : ℕ) → Type ℓ)
+--   where
+
+--   isSetDepVec : ((n : ℕ) → isSet (G n)) → (n : ℕ) → isSet (depVec G n)
+--   isSetDepVec G n = {!!}
```
Comment (mortberg) [inline Cubical/Data/Vec/DepVec.agda:81]: Remove commented code

File: Cubical/ZCohomology/RingStructure/CohomologyRingFun.agda [hunk 15]
```diff
@@ -0,0 +1,55 @@
+{-# OPTIONS --safe --experimental-lossy-unification #-}
+module Cubical.ZCohomology.RingStructure.CohomologyRingFun where
```
Comment (mortberg) [inline Cubical/ZCohomology/RingStructure/CohomologyRingFun.agda:2]: Add comment that the HIT version is probably better to use

**Review by mortberg — CHANGES_REQUESTED** [review]

File: Cubical/Algebra/CommRing/Instances/UnivariatePoly.agda [hunk 16]
```diff
@@ -13,26 +13,23 @@ private
...
-                                      (PolyModTheory.Poly*LDistrPoly+ R)
-                                      (PolyModTheory.Poly*Commutative R)
+open CommRingStr
+
+module _ (R : CommRing ℓ) where
+
+  open PolyMod R
+  open PolyModTheory R
+
+  UnivariatePoly : CommRing ℓ
```
[the remark this answers is not in the document]
Comment (thomas-lamiaux) [reply Cubical/Algebra/CommRing/Instances/UnivariatePoly.agda]: Was resolved by a bigger refactoring of Polynomials

**Comment by thomas-lamiaux** [comment]
@mortberg I have refactored Polynomials. Do you prefer the current

- Multivariate
- Univariate
- - UnivariateList
- - UnivariateFun
- - UnivariateHIT

Or would you prefer
- Multivariate
- Univariate
- UnivariateList
- UnivariateFun
- UnivariateHIT

**Comment by thomas-lamiaux** [comment]
I have fixed all issues except the bit of code that needs to be generalize that I will do by thursday.

**Comment by mortberg** [comment]
> @mortberg I have refactored Polynomials. Do you prefer the current
> 
>     * Multivariate
> 
>     * Univariate
> 
>     * * UnivariateList
> 
>     * * UnivariateFun
> 
>     * * UnivariateHIT
> 
> 
> Or would you prefer
> 
>     * Multivariate
> 
>     * Univariate
> 
>     * UnivariateList
> 
>     * UnivariateFun
> 
>     * UnivariateHIT

What is "Univariate" in the second suggestion? I think I prefer the flatter structure on matter what, there's already so much nesting.

File: Cubical/ZCohomology/RingStructure/CohomologyRing.agda [hunk 17]
```diff
@@ -141,36 +87,14 @@ module CupRingProperties (A : Type ℓ) where
...
   gradCommRing : (n m : ℕ) → (a : coHom n A) → (b : coHom m A) →
                  (base n a) cup (base m b) ≡ (-^ n · m) ((base m b) cup (base n a))
   gradCommRing n m a b = base (n +' m) (a ⌣ b)
                                  ≡⟨ cong (base (n +' m)) (gradedComm-⌣ n m a b) ⟩
                         base (n +' m) ((-ₕ^ n · m) (subst (λ n₁ → coHom n₁ A) (+'-comm m n) (b ⌣ a)))
                                  ≡⟨ sym (-^-base n m (subst (λ k → coHom k A) (+'-comm m n) (b ⌣ a))) ⟩
                         (-^ n · m)  (base (n +' m) (subst (λ k → coHom k A) (+'-comm m n) (b ⌣ a)))
-                                 ≡⟨ cong (-^ n · m) (sym (constSubstCommSlice (λ k → coHom k A) H* base (+'-comm m n) (b ⌣ a))) ⟩
+                                 ≡⟨ cong (-^ n · m) (sym (constSubstCommSlice (λ k → coHom k A) (H* A) base (+'-comm m n) (b ⌣ a))) ⟩
                          (-^ n · m) (base (m +' n) (b ⌣ a)) ∎
```
[the remark this answers is not in the document]
Comment (thomas-lamiaux) [reply Cubical/ZCohomology/RingStructure/CohomologyRing.agda:100]: I didn't generalize it because you need that the index is the same definitionally which is annoying.
May as well keep it this way, as the only two cases I need it are already in the library.

**Comment by thomas-lamiaux** [comment]
@mortberg you can consider it as done

**Review by mortberg — APPROVED** [review]
